US06211234B1
A solution of ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (2.91 g) and diethyl oxalate (2.82 g) in dry toluene are stirred at room temperature whilst adding sodium hydride (0.28 g, 60% dispersion in mineral oil) portionwise. The reaction mixture is heated at reflux for 5 hours then left at room temperature for 18 hours. Evaporation gives an orange oil which is dissolved in ethanol (100 mL) and treated with glacial acetic acid (1.5 mL). Hydroxylamine hydrochloride (0.49 g) is added and the mixture heated at reflux for 5 hours. The reaction mixture is partitioned between ethyl acetate (100 mL) and water (100 mL). The aqueous phase is extracted with three times ethyl acetate (50 mL). The combined organic phases are washed with brine (50 mL), with water (50 mL), dried over magnesium sulphate and evaporated. The residue is purified by flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give ethyl (RS)-4-[2-(5-ethoxycarbonylisoxazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (2.56 g) as an orange oil.

reactant | ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 2.91 g | C(C)(=O)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C26H28O5S
reactant | diethyl oxalate | 2.82 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | Hydroxylamine hydrochloride | 0.49 g | Cl.NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | ethyl (RS)-4-[2-(5-ethoxycarbonylisoxazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 2.56 g | C(C)OC(=O)C1=CC(=NO1)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C30H31NO7S
